US04178387
To a stirred suspension of 7.3 g (30.0 mmol) of methylguanidine sulfate in tetrahydrofuran (80 ml) is added 4.3 g (60.0 mmol) of 50% w/w sodium hydroxide in water with continued stirring for one hour. Anhydrous sodium sulfate (10.0 g) is added and the mixture stirred an additional hour after which 6.6 g (30.0 mmol) of 2,6-diethyl-4-nitrophenylisocyanate is added and the resulting mixture stirred at room temperature over-night. The tetrahydrofuran is removed under vacuum and the residue partitioned between water and chloroform. The layers are separated and the aqueous layer extracted with chloroform (1×100 ml). The combined extracts are dried (MgSO4) and concentrated to give a yellow foam which is dissolved in methanol and acidified with HCl/MeOH. The methanol is removed under vacuum to give a yellow viscous oil which solidifies on scratching. Crystallization from methanol-ethyl acetate gives 1-(2,6-diethyl-4-nitrophenyl)-3-methylamidinourea hydrochloride as a pale yellow solid, m.p. 173°-175° C.

reactant | methylguanidine sulfate | 30.0 mmol, 7.3 g | S(=O)(=O)(O)O.CNC(=N)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | 10.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-diethyl-4-nitrophenylisocyanate | 30.0 mmol, 6.6 g | C(C)C1=C(C(=CC(=C1)[N+](=O)[O-])CC)N=C=O | C11H12N2O3
reactant | HCl MeOH | Cl.CO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-(2,6-diethyl-4-nitrophenyl)-3-methylamidinourea hydrochloride | Cl.C(C)C1=C(C(=CC(=C1)[N+](=O)[O-])CC)NC(=O)NC(NC)=N | InChI=1S/C13H19N5O3.ClH/c1-4-8-6-10(18(20)21)7-9(5-2)11(8)16-13(19)17-12(14)15-3;/h6-7H,4-5H2,1-3H3,(H4,14,15,16,17,19);1H
